US07462639B2
3-[3-(7,7-Diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-1,1-diethyl-urea
3-[3-(7,7-Diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-1,1-diethyl-urea was prepared using 2-(4-amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.43 mmol) and diethylcarbamoyl chloride (58 mg, 0.43 mmol). 12 mg (6%) %) of the title compound were obtained.

reactant | 2-(4-amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.43 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(CC)CC)N1 | C19H24N6O
reactant | diethylcarbamoyl chloride | 0.43 mmol, 58 mg | C(C)N(C(=O)Cl)CC | C5H10ClNO
product | 3-[3-(7,7-Diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-1,1-diethyl-urea | C(C)C1(C(N(C=2C=C3C(=CC12)NC(=N3)C3=NNC=C3NC(N(CC)CC)=O)C(C)C)=O)CC | C24H33N7O2
